US06410736B1
2-(3,4-Dichlorophenoxy-5-phenyl-benzaldehyde
Under N2 in a 50 mL round bottomed flask fitted with a magnetic stirrer were placed the following reactants in order: 15 mL of toluene, 500 mg (1.4 mmol) of 5-bromo-2-(3,4-dichlorophenoxy)-benzaldehyde (from Preparation 1), 341 mg (2.8 mmol) of phenylboronic acid (Aldrich Chem. Co.), 1.5 mL of ethanol and 774 mg (5.6 mmol) of Na2CO3 in 3 mL of water. To this was added 45 mg (0.04 mmol) of tetrakis(triphenylphosphine)palladium (0) (Aldrich Chem. Co.), and the mixture was degassed with N2. The reaction was next heated to reflux for 4 hr, at which time a thin layer chromatography (tlc), using 1:1 CH2Cl2: hexane on silica gel coated plates, showed the absence of the starting aldehyde. After cooling, the mixture was diluted with 100 mL of EtOAc, washed twice with water, twice with 2 N NaOH, twice with water and finally with saturated aqueous NaCl. After drying over MgSO4, the solvent was removed in vacuo to give an oily residue, 690 mg. This was chromatographed on silica gel, eluting with CH2Cl2:hexane (1:1) to give the title product as an oil, 462 mg.

reactant | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
reactant | 5-bromo-2-(3,4-dichlorophenoxy)-benzaldehyde | 1.4 mmol, 500 mg | BrC=1C=CC(=C(C=O)C1)OC1=CC(=C(C=C1)Cl)Cl | C13H7BrCl2O2
reactant | phenylboronic acid | 2.8 mmol, 341 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Na2CO3 | 5.6 mmol, 774 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 3 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.04 mmol, 45 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
product | 3,4-Dichlorophenoxy-5-phenyl-benzaldehyde | ClC=1C=C(OC2=C(C=O)C=C(C=C2)C2=CC=CC=C2)C=CC1Cl | C19H12Cl2O2
